* BFQ621 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT172A2A DIE MODEL : MOD600
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFQ621 1 2 3
Q1 11 22 34 34 MOD600
* SOT172A2A parasitic model
               Tc  10 0 11 0 ZO=38.80 F=1e9 NL=11.32e-3
               Tb  20 0 21 0 ZO=38.80 F=1e9 NL=9.7e-3
               Te1 31 0 33 0 ZO=99.18 F=1e9 NL=3.35e-3
               Te2 30 0 31 0 ZO=45.13 F=1e9 NL=5.68e-3
               Te3 32 0 33 0 ZO=99.18 F=1e9 NL=18.26e-3
               Te4 30 0 32 0 ZO=45.13 F=1e9 NL=6.57e-3
               Lb  21 22 1.85n 
               Le  33 34 1.22n
               Ccb 10 20 36f
               Cbe 20 30 225f
*
* PHILIPS SEMICONDUCTORS                                     Version:     1.0
* Filename:   MOD600.PRM                                     Date: Sept. 1992
*
.MODEL  MOD600  NPN
+              IS = 1.35800E-015
+              BF = 1.12200E+002
+              NF = 9.90500E-001
+             VAF = 7.80600E+001
+             IKF = 4.29100E+000
+             ISE = 6.43300E-013
+              NE = 1.85100E+000
+              BR = 5.77600E+000
+              NR = 9.99600E-001
+             VAR = 2.35000E+000
+             IKR = 5.02600E-002
+             ISC = 2.45400E-015
+              NC = 1.17500E+000
+              RB = 8.00000E+000
+             IRB = 1.00000E-006
+             RBM = 8.00000E+000
+              RE = 1.58500E+000
+              RC = 1.88000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 3.98500E-012
+             VJE = 6.00000E-001
+             MJE = 3.27300E-001
+              TF = 1.40200E-011
+             XTF = 3.98100E+002
+             VTF = 2.94000E+000
+             ITF = 3.08400E+000
+             PTF = 4.50000E+001
+             CJC = 1.52900E-012
+             VJC = 2.15700E-001
.ENDS

